** sch_path: /home/shlok/.xschem/xschem_library/xschem_sky130/sky130_tests/res_amp_working.sch
**.subckt res_amp_working
V2 VCC 0 1.8
V3 PLUS 0 0.91
V4 IN 0 0 ac 1 0 sin(0 1m 100meg 0 0 0)
V1 VCC_1V0 0 1
V5 VREF 0 0.3
XM35 net1 PBIAS VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725
+ sa=0 sb=0 sd=0 mult=8 m=8
XMP_INM INP INP_SHIFT net1 net1 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725
+ sa=0 sb=0 sd=0 mult=4 m=4
XMP_INP PBIAS_DIO_AMP INM_SHIFT net1 net1 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM38 PBIAS_DIO_AMP NBIAS 0 0 sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0
+ sb=0 sd=0 mult=4 m=4
XM39 INP NBIAS 0 0 sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=4 m=4
XM40 INP PBIAS_DIO_AMP VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM41 PBIAS_DIO_AMP PBIAS_DIO_AMP VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58
+ nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM17 NBIAS NBIAS 0 0 sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=2 m=2
Vtail2 net2 NBIAS 0
.save i(vtail2)
I1 VCC_1V0 net2 10u
XM18 PBIAS NBIAS 0 0 sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=2 m=2
XM19 PBIAS PBIAS VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725
+ sa=0 sb=0 sd=0 mult=4 m=4
XM20 net3 PBIAS VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725
+ sa=0 sb=0 sd=0 mult=4 m=4
XM21 PBIAS_CMFB_AMP INP_SHIFT net3 net3 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM22 PBIAS_CMFB_AMP INM_SHIFT net3 net3 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM23 PBIAS_DIO VREF net3 net3 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0
+ sb=0 sd=0 mult=4 m=4
XM24 PBIAS_DIO VREF net3 net3 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0
+ sb=0 sd=0 mult=4 m=4
XM25 PBIAS_DIO NBIAS 0 0 sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=2 m=2
XM26 PBIAS_DIO PBIAS_DIO VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM27 PBIAS_CMFB_AMP NBIAS 0 0 sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0
+ sb=0 sd=0 mult=2 m=2
XM28 PBIAS_CMFB_AMP PBIAS_DIO VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM29 NBIAS_CMFB_AMP PBIAS_CMFB_AMP VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58
+ nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM30 NBIAS_CMFB_AMP NBIAS_CMFB_AMP 0 0 sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM31 INP PBIAS_CMFB_AMP VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM32 INP_SHIFT NBIAS_CMFB_AMP 0 0 sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725
+ sa=0 sb=0 sd=0 mult=4 m=4
XM33 INM PBIAS_CMFB_AMP VCC_1V0 VCC_1V0 sky130_fd_pr__pfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725
+ nrs=0.0725 sa=0 sb=0 sd=0 mult=4 m=4
XM34 INM_SHIFT NBIAS_CMFB_AMP 0 0 sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725
+ sa=0 sb=0 sd=0 mult=4 m=4
R4 INP INP_SHIFT 60k m=1
R5 INM INM_SHIFT 60k m=1
**** begin user architecture code

* this option enables mos model bin
* selection based on W/NF instead of W
.option wnflag=1
.option savecurrents
vg G1v8 0 1.8
vs s 0 0
vd D1v8 0 1.8
vb b 0 0
v_inm INM 0 0.5
.control
set noappendwrite
save all
dc v_inm 0 1 0.05

*save v(INP)
*save v(INP_SHIFT)
*save v(INM_SHIFT)

*save @m.xm27.msky130_fd_pr__nfet_01v8_lvt[gm]
*save @m.xmp_inp.msky130_fd_pr__pfet_01v8_lvt[gm]
*save all
wrdata res_dc_ana v(inm) v(inp) v(vref) v(inp_shift) v(inm_shift)
write res_amp_working.raw

*wrdata GM @m.xm27.msky130_fd_pr__nfet_01v8_lvt[gm]

save all
op

quit 0
.endc


.lib SkyWater130nm_subset/sky130A_ngspice/libs.tech/ngspice/sky130.lib.spice tt
**** end user architecture code
**.ends
.end
